US09339503B2
2-[4-(2-Methoxyphenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A12”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and 1-(2-methoxyphenyl)piperazine (98 mg; 0.51 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 1 (reaction time 4 h) and worked up; yield: 52 mg (30%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | 1-(2-methoxyphenyl)piperazine | 0.51 mmol, 98 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(2-Methoxyphenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | COC1=C(C=CC=C1)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C19H24N4O2
